datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[O:12][CH:11]=[CH:10]1.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>F[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CC[O+:12]=[CH:11]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CC[C:10]#[C:11][N:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74]>>CC[C:10](=[C:11]=[N+:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74])[CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C)C)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[C:71](=[O:72])[O:92]CC)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C1C[N:10]2CCC1CC2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]23CCC(CC2)CC3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[N:12](C)[C:11](=[NH:10])[N:62](C)C>>C[N+:12](C)=[C:11]([NH:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2)[N:62](C)C 10,11=10,20;12=11,12"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.COC1=C([C:10]#[C:11][N:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])C=CC=C1>>COC1=C([C:10](=[C:11]=[N+:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])[CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].CC1(C)C(C)(C)[O:74][B:63]([CH2:62][CH:11]=[CH2:10])[O:64]1>>CC(C)[O:33][C:22](=[N:21][N:20]([CH2:10][CH+:11][CH2:62][B:63]1[O:64]C(C)(C)C(C)(C)[O:74]1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2C(CC3=CC=CC=C3)C[O:72][C:61]2=[O:62])[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])[C:31](=[O:32])[N:33](C)C)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].[N:10]1=[CH:61][NH:62][CH:72]=[CH:71]1>>F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([N+:10]1=[CH:61][NH:62][CH:72]=[CH:71]1)[O-:21] 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH2:10][C+:11](C)[CH2:62][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20"
"CC1(C)C[O:12][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:62]C1.C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1(C)C[O+:12]=[B-:11](C2=CC=C(C(F)(F)F)C=C2)[O:62]C1.C[CH:10](C1=CC=CC=C1)[CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
